US04960766
Conc. hydrochloric acid (4.1 g) was added to a solution of trifluoroacetic acid salt of 7β-[2-(2-formamidothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (A isomer) (syn isomer) (5.8 g) in methanol (60 ml), and the mixture was stirred at ambient temperature for 2 hours. To the reaction mixture was added water (60 ml) and adjusted to pH 2.0 with 5% aqueous solution of sodium bicarbonate. The separated aqueous solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (120 ml) and eluted with 30% aqueous solution of methanol. The fractions containing the object compound were collected and concentrated in vacuo, then lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (A isomer) (syn isomer) (1.1 g).

reactant | hydrochloric acid | 4.1 g | Cl | ClH
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-(2-formamidothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC1C=CCC1 | C23H23N7O6S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(2-cyclopenten-1-yloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC1C=CCC1 | C22H23N7O5S2
